US04011333
A mixture of 10.6 g (0.031 mole) of 5-tetradecyloxy-2-thiophene carboxylic acid, 4.3 g (0.034 mole) of potassium carbonate, and dimethylformamide is stirred at room temperature after which 15.6 g (0.10 mole) of ethyl iodide is added. The mixture is heated at 50° C with stirring overnight and poured into water and extracted with the ether. The ether layer is washed with water and salt water and then dried over sodium sulfate, filtered, and the ether is distilled off to give 5-tetradecyloxy-2-thiophenecarboxylic acid ethyl ester.

reactant | 5-tetradecyloxy-2-thiophene carboxylic acid | 0.031 mole, 10.6 g | C(CCCCCCCCCCCCC)OC1=CC=C(S1)C(=O)O | C19H32O3S
reactant | potassium carbonate | 0.034 mole, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 0.10 mole, 15.6 g | C(C)I | C2H5I
solvent | water | O | H2O
product | 5-tetradecyloxy-2-thiophenecarboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=CC1)OCCCCCCCCCCCCCC | C21H36O3S
